US07807671B2
Preparation of 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylic acid (Compound B-21)
To a suspension of ethyl 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate (0.124 g, 0.217 mmol) in DMF (1.5 mL) and H2O (1.5 mL) was added LiOH monohydrate (0.027 g, 0.651 mmol). The mixture was heated to 120° C. for 24 h. The reaction was not complete, so an additional 0.05 g of LiOH hydrate along with 2 mL of H2O were added to the mixture, and it was again heated to 120° C. After 24 h of heating, the reaction was nearly complete by LCMS, so it was cooled to rt, and made acidic (pH =1) with 6N HCl. The mixture was diluted with H2O, and partitioned with EtOAc. The product precipitated from between the two layers, and was collected by filtration. The solids were washed with cold MeOH and H2O. The 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylic acid (0.08 g) was collected as a light yellow solid. LCMS: m/e 542.97 (M+H)+, ret time 1.86 min (method 2). 1H NMR (500 MHz, DMSO-D6) δ ppm 12.10-12.22 (s, 1 H) 8.25 (s, 1 H) 8.10 (s, 1 H) 7.56-7.77 (m, 5 H) 7.39 (s, 1 H) 3.99 (s, 3 H) 3.67-3.72 (m, 2 H) 3.40-3.46 (m, 2 H) 3.29-3.36 (m, 2 H) 3.14-3.20 (m, 2 H).

reactant | ethyl 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylate | 0.217 mmol, 0.124 g | COC1=C2C(=C(N=C1)C1=NNC(=C1)C(=O)OCC)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C27H26N10O5
reactant | LiOH hydrate | 0.05 g | O[Li].O
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 1.5 mL | O | H2O
solvent | H2O | 2 mL | O | H2O
product | 3-(4-methoxy-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)-1H-pyrazole-5-carboxylic acid | COC1=C2C(=C(N=C1)C1=NNC(=C1)C(=O)O)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C25H22N10O5
